US06774245B2
To a solution of (2-bromo-5-methylphenylthio)ethoxymethane-1-thione (80.23 g, 275 mmol) in ethanol-THF (2/1) (420 ml), a solution of propargyl bromide (49.13 g, 413 mmol) in ethanol (140 ml) was slowly added dropwise in an ice bath and stirred in an ice bath for 20 minutes. Furthermore, while keeping the mixture in the ice bath, a solution of N,N-dimethylethylenediamine (48.48 g, 550 mmol) in ethanol (275 ml) was added dropwise over 15 minutes. The mixture was kept in the ice bath for 20 minutes, and removed from the ice bath and left at room temperature for 1 hour, followed by further stirring at 30° C. in an oil bath for 2 hours. To a separatory funnel that contained 2N aqueous hydrochloric acid (600 ml) and hexane (500 ml), the reaction mixture was added and extracted as it was. The aqueous phase was extracted with hexane (300 ml), and the organic phase combined was washed with 1N aqueous hydrochloric acid (200 ml). Then, after washing with water (200 ml×2 times), it was dried on magnesium sulfate. The solvent was evaporated to obtain 1-bromo-4-methyl-2-(prop-2-inylthio)benzene (62.35 g, 259 mmol). The yield was 94%.

reactant | (2-bromo-5-methylphenylthio)ethoxymethane-1-thione | 275 mmol, 80.23 g | BrC1=C(C=C(C=C1)C)SCCOC=S | C10H11BrOS2
reactant | propargyl bromide | 413 mmol, 49.13 g | C(C#C)Br | C3H3Br
reactant | N,N-dimethylethylenediamine | 550 mmol, 48.48 g | CN(CCN)C | C4H12N2
solvent | ethanol THF | 420 ml | C(C)O.C1CCOC1
solvent | ethanol | 140 ml | C(C)O | C2H6O
solvent | ethanol | 275 ml | C(C)O | C2H6O
product | 1-bromo-4-methyl-2-(prop-2-inylthio)benzene | 259 mmol, 62.35 g, yield was 94% | BrC1=C(C=C(C=C1)C)SCC#C | C10H9BrS
